2124-04-14 10:24:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   49 yo man with severe COPD, h/o multiple exacervations.  Presented to
   hospital in NH on [**4-10**] with COPD exacerbation.  Was admitted to ICU,
   refused all meds including steroids.  Left AMA on [**4-12**].  Also noted to
   have new renal failure (Cr=2.0). Came here yesterday with SOB which he
   says never improved much.  In ED got nebs, steroids, levoflox.  Was
   supposed to go to floor, but was tachycardic and hypoxemic on 4L, so
   came to MICU.   Overnight has intermittently refused his prednisone,
   blood draws, and other meds.  getting nebs.
   24 Hour Events:
 CALLED OUT
   Allergies:
   Penicillins
   Unknown;
   Terbutaline
   Unknown;
   Epinephrine
   Unknown;
   Glucocorticoids
   Confusion/Delir
   Alupent (Oral) (Metaproterenol Sulfate)
   Unknown;
   Iodine
   Unknown;
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   levoflox
   atrovent (refused)
   hep s/q (refuse)
   zopinex (refused)
   prednisone (refuse)
   Changes to medical and family history:
   PMHx:
   severe COPD, multiple excerbations
   diastolic CHF
   CAD, MI X 3.
   h/o noncompliance.
   HTN
   diverticulosis ?bowel resection previously
   glucose intolerance with steroids
   Meds at home:
   Lasix/ACE at home unknown doses.
   ASA
   zopinex
   atrovent
   montelukast
   klonazepam
   oxycontin
   SHx
   Has daughter
   lists wife and cousin as HCP
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough, Dyspnea, Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain
   Heme / Lymph: No(t) Anemia
   Psychiatric / Sleep: No(t) Agitated
   Allergy / Immunology: No(t) Immunocompromised
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-4-14**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 94 (80 - 113) bpm
   BP: 119/62(75) {110/49(69) - 136/71(84)} mmHg
   RR: 17 (15 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  840 mL
   PO:
                  840 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    900 mL
   Urine:
   900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ////
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : diffuse upper airway )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   439
   2.5
   25
   5.0
   68
   101
   139
   40.5
   16.7
        [image002.jpg]
   Assessment and Plan
   Respiratory distress:  continue steroids and nebs.   continue
   levofloxacin
   Neurologic compaints/Difficulty walking: consider work up as he is
   concern about this.
   tachycardia:  improved
   acute renal failure:  unclear where this is compared to his baseline.
   Renal U/S is pending.    Urine lytes c/w prerenal picture.
   Can do some IVF hydration.
   Can get PT consult.
   chronic diastolic CHF:  no pulmonary edema currently.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-4-13**] 11:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2124-04-15 09:32:00 Physician Attending Progress Note
Chief Complaint: COPD exacerbation, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   On 4L O2 this AM
   24 Hour Events:
 ULTRASOUND - At [**2124-4-14**] 08:15 AM
 CALLED OUT
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Penicillins
   Unknown;
   Terbutaline
   Unknown;
   Epinephrine
   Unknown;
   Glucocorticoids
   Confusion/Delir
   Alupent (Oral) (Metaproterenol Sulfate)
   Unknown;
   Iodine
   Unknown;
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-4-14**] 10:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-4-15**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.6
   HR: 83 (53 - 107) bpm
   BP: 129/73(65) {114/55(65) - 166/80(100)} mmHg
   RR: 23 (16 - 27) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,980 mL
                                                                    860 mL
   PO:
                                                                  1,980 mL
                                                                    860 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                  1,350 mL
   Urine:
                                                                  2,800 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -820 mL
                                                                   -490 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: loud rhonchio throughout)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 ASTHMA
   49 yo man with COPD exacerbation
   Respiratory distress:  continue steroids and nebs.   continue
   levofloxacin
   Acute renal failure:  Need to recheck Cr if pt accepts lab draw
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-4-13**] 11:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: